US07981903B2
Nitrogen was bubbled through dioxane for 15 minutes (100 mL) prior to the addition of 4-chloro-2-(methyloxy)-1-nitrobenzene (5.0 g, 29.1 mmol, Aldrich). To the solution were added 3-pyridinylboronic acid (4.3 g, 34.9 mmol, Frontier Science), dichloro(triphenylphosphine)palladium (1.0 g, 1.46 mmol, Aldrich) and degassed aqueous Na2CO3 (30 mL, 3 N, 87.3 mmol). The reaction mixture was heated at 82° C. for 4 h. Additional water (100 mL) was added to the reaction when it was cooled down to rt, and ethyl acetate was used to extract the crude product. The combined organic phases were dried (Na2CO3), concentrated, and purified by silica column chromatography (10-60% Ethyl acetate/hexane) to afford 3-(3-methyl-4-nitrophenyl)pyridine (5.3 g, 85% yield.) 1H NMR (400 MHz, DMSO-d6) δ ppm 2.58 (s, 3 H), 7.52 (ddd, J=8.0, 4.8, 0.9 Hz, 1 H), 7.80 (dd, J=8.5, 2.1 Hz, 1 H), 7.90 (d, J=1.1 Hz, 1 H), 8.08 (d, J=8.4 Hz, 1 H), 8.16 (ddd, J=8.0, 2.5, 1.6 Hz, 1 H), 8.62 (dd, J=4.8, 1.5 Hz, 1 H), 8.95-8.97 (m, 1 H).

reactant | 4-chloro-2-(methyloxy)-1-nitrobenzene | 29.1 mmol, 5.0 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | 3-pyridinylboronic acid | 34.9 mmol, 4.3 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
reactant | Na2CO3 | 87.3 mmol, 3 N, 30 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 100 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(3-methyl-4-nitrophenyl)pyridine | 5.3 g, 85% yield | CC=1C=C(C=CC1[N+](=O)[O-])C=1C=NC=CC1 | C12H10N2O2
